US05164371
a. t-Butyl 4-(isopropylsulfonylaminocarbonyl)benzoate
1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (198 mg) was added to a stirred mixture of 4-(t-butoxycarbonyl)benzoic acid (195 mg), 2-propanesulfonamide (98 mg) and 4-dimethylaminopyridine (126 mg) in dichloromethane (3.7 ml). The mixture was stirred overnight, diluted with ethyl acetate, washed (1N HCl, brine), dried (MgSO4), and evaporated. The crude product was purified by flash chromatography, eluting with acetone:hexanes (75:25), to afford the product (193 mg): TLC, Rf =0.64, acetone:hexanes (75:25): MS, m/e=356(M+29), 330(M+3), 329(M+2), 328(M+1), 272, 223, 222, 205, 204, 166.

reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 198 mg | Cl.CN(CCCN=C=NCC)C
reactant | 4-(t-butoxycarbonyl)benzoic acid | 195 mg | C(C)(C)(C)OC(=O)C1=CC=C(C(=O)O)C=C1 | C12H14O4
reactant | 2-propanesulfonamide | 98 mg | CC(C)S(=O)(=O)N | C3H9NO2S
catalyst | 4-dimethylaminopyridine | 126 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 3.7 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | t-Butyl 4-(isopropylsulfonylaminocarbonyl)benzoate | 193 mg | C(C)(C)S(=O)(=O)NC(=O)C1=CC=C(C(=O)OC(C)(C)C)C=C1 | C15H21NO5S
